US08022209B2
1-Methyl-4-(2-thiophen-3-yl-pyridin-4-yl)-piperazine
To a microwave tube was added 4-chloro-2-thiophen-3-yl-pyridine (50 mg, 0.26 mmol), 1-methylpiperazine (100 mg, 1 mmol), 2-propanol (0.7 mL) and concentrated HCl (1 drop). The resulting mixture was heated at 180° C. for 40 min using a Personal Chemistry Smith Synthesizer. The resulting mixture was poured into water and extracted with CH2Cl2. The organic layer was dried and concentrated, and the residue was purified by preparative TLC (CH2Cl2/MeOH) to yield the title compound as a solid.

reactant | 4-chloro-2-thiophen-3-yl-pyridine | 0.26 mmol, 50 mg | ClC1=CC(=NC=C1)C1=CSC=C1 | C9H6ClNS
reactant | 1-methylpiperazine | 1 mmol, 100 mg | CN1CCNCC1 | C5H12N2
reactant | 2-propanol | 0.7 mL | CC(C)O | C3H8O
catalyst | HCl | 1 drop | Cl | ClH
solvent | water | O | H2O
product | 1-Methyl-4-(2-thiophen-3-yl-pyridin-4-yl)-piperazine | CN1CCN(CC1)C1=CC(=NC=C1)C1=CSC=C1 | C14H17N3S
